US08247403B2
(1) tert-butyl 9-(3-fluorophenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate
A mixture of tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (400 mg, 1.22 mmol), 3-fluorophenylboronic acid (171 mg, 1.22 mmol), ethanol (1 ml), 2N aqueous sodium carbonate solution (5 ml), and tetrakis(triphenylphosphine)palladium(0) (170 mg, 0.147 mmol) in toluene (10 ml) was stirred under a nitrogen atmosphere at 95° C. for 12 hr. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to give the desired product (390 mg, 93.1%) as an oil.

reactant | tert-butyl 9-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 1.22 mmol, 400 mg | BrC1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C14H18BrNO3
reactant | 3-fluorophenylboronic acid | 1.22 mmol, 171 mg | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | ethanol | 1 ml | C(C)O | C2H6O
reactant | sodium carbonate | 2N, 5 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.147 mmol, 170 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | tert-butyl 9-(3-fluorophenyl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 390 mg, 93.1% | FC=1C=C(C=CC1)C1=CC=CC=2CN(CCOC21)C(=O)OC(C)(C)C | C20H22FNO3
